US04220644
A solution of 1.19 g. (2.4 mmol.) of 7-amino-3-[1-(2-t-butoxycarbonylethyl)tetrazol-5-ylthiomethyl]-3-cephem 4-carboxylic acid t-butyl ester and 0.56 g. (2.4 mmol.) of 3,5-di-t-butyl-4-hydroxybenzaldehyde in 100 ml. of dry benzene was refluxed for 4 hours under a Dean-Stark trap. The solution was evaporated under reduced pressure to leave a residue which was dissolved in 100 ml. of 1,2-dichloroethane and cooled to ca. 5° in an ice bath. Three grams of freshly prepared lead dioxide was added in portions over 20 minutes until the starting material was completely consumed. The mixture was filtered through Celite and the filter cake was washed with two 20 ml. portions of cold 1,2-dichloroethane. The filtrate was treated with 25 ml. of methanol (distilled from magnesium) and the reaction mixture was allowed to stand at room temperature until complete consumption of the oxidized intermediate and formation of a new slower-moving product was shown by thin layer chromatography (ca. 3 hours). The mixture was evaporated to yield a brown semi-solid which was dissolved in 30 ml. of methanol and treated with 2.5 g. of Girard reagent T (trimethylaminoacetohydrazide chloride). The reaction mixture was stirred at room temperature for 3 hours, then evaporated to give a solid residue which was partitioned between 100 ml. of ethyl acetate and 100 ml. of 20% sodium chloride solution. The organic phase was washed with three 100 ml. portions of 10% sodium chloride solution, two 100 ml. portions of water and 100 ml. of a saturated sodium chloride solution. The organic phase was dried (MgSO4), filtered and evaporated to dryness to give 7β-amino-7α-methoxy-3-[1-(2-t-butoxycarbonylethyl)tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid t-butyl ester.

reactant | 7-amino-3-[1-(2-t-butoxycarbonylethyl)tetrazol-5-ylthiomethyl]-3-cephem 4-carboxylic acid t-butyl ester | 2.4 mmol | C(C)(C)(C)OC(=O)C1=C(CS[C@H]2N1C(C2N)=O)C(CCC(=O)OC(C)(C)C)SC2=NN=NN2 | C20H30N6O5S2
reactant | 3,5-di-t-butyl-4-hydroxybenzaldehyde | 2.4 mmol | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | lead dioxide | [Pb](=O)=O
solvent | methanol | CO | CH4O
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 7β-amino-7α-methoxy-3-[1-(2-t-butoxycarbonylethyl)tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)C1=C(CS[C@H]2N1C([C@@]2(OC)N)=O)C(CCC(=O)OC(C)(C)C)SC2=NN=NN2 | C21H32N6O6S2
